US07678794B2
Synthesis of N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-cyano-benzamide
Add a solution of 3-cyanobenzoyl chloride (553 mg, 3.34 mmol) in dichloromethane (10 mL) to a solution of 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (1.00 g, 3.34 mmol) in dichloromethane (10 mL), and triethyl amine (1.4 mL) at 0° C. Stir to room temperature for one hour. Partition the mixture between dichloromethane (20 mL) and 2N hydrochloric acid (30 mL). Wash the organic layer with 2N hydrochloric acid (20 mL), saturated sodium bicarbonate, brine, dry, filter, and concentrate to afford the title compound as a light yellow powder (1.33 g, 93%): 1H NMR (CDCl3) δ 0.96 (t, 3H), 1.59 (sextet, 2H), 2.55 (s, 3H), 2.72 (t, 2H), 5.19 (s, 2H), 6.47 (d, 1H), 7.26 (d, 1H), 7.42 (t, 1H), 7.54-7.59 (m, 2H), 7.65 (t, 1H), 7.77 (s, 1H), 7.84 (d, 1H), 7.88 (s, 1H), 8.11 (d, 1H), 8.17 (s, 1H), 12.75 (s, 1H).

reactant | 3-cyanobenzoyl chloride | 3.34 mmol, 553 mg | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 3.34 mmol, 1.00 g | NC=1C=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=CC1 | C18H21NO3
reactant | triethyl amine | 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-3-cyano-benzamide | 1.33 g, 93% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C#N)=O)C=C1)CCC)O | C26H24N2O4
